US08119778B2
Preparation of the Starting Material 2-(phenylazo-)-4-butylthio-1-naphthol
This is prepared similarly to Example 1 using 0.8 g (8.6 mmoles) of aniline, 0.65 g (9.5 mmoles) of sodium nitrite, and 2 g (8.6 mmoles) of 4-butylthio-1-naphthol.

reactant | aniline | 8.6 mmoles, 0.8 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium nitrite | 9.5 mmoles, 0.65 g | N(=O)[O-].[Na+]
reactant | 4-butylthio-1-naphthol | 8.6 mmoles, 2 g | C(CCC)SC1=CC=C(C2=CC=CC=C12)O | C14H16OS
product | 2-(phenylazo-)-4-butylthio-1-naphthol | C1(=CC=CC=C1)N=NC1=C(C2=CC=CC=C2C(=C1)SCCCC)O | C20H20N2OS
